US07135480B2
3-Benzoyl-1-cyano-indolizine
The title compound was prepared from 1-(phenacyl)-pyridinium bromide (101 mg, 0.362 mmol), tetrapyridinecobalt(II) dichromate (246 mg, 0.403 mmol), sodium bicarbonate (84.9 mg, 1.01 mmol), acrylonitrile (120 μL, 1.82 mmol), and N,N-dimethylformamide (2.0 mL), similar to Example 1b, and yielded 30.5 mg (34%) as a white solid. 1H NMR (CDCl3): 9.96 (dd, J=6.05, 1.10 Hz, 1H), 7.82 (m, 3H), 7.61 (m, 2H), 7.52 (m, 3H), 7.17 (td, J=7.00, 1.29 Hz, 1H).

reactant | 1-(phenacyl)-pyridinium bromide | 0.362 mmol, 101 mg | [Br-].C(C(=O)C1=CC=CC=C1)[N+]1=CC=CC=C1
reactant | dichromate | 0.403 mmol, 246 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-]
reactant | sodium bicarbonate | 1.01 mmol, 84.9 mg | C([O-])(O)=O.[Na+]
reactant | acrylonitrile | 1.82 mmol, 120 μL | C(C=C)#N | C3H3N
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 3-Benzoyl-1-cyano-indolizine | C(C1=CC=CC=C1)(=O)C1=CC(=C2C=CC=CN12)C#N | C16H10N2O
